US08039469B2
Preparation of 1-(4-fluorophenyl)-3-{4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]phenyl}urea
The titled compound was prepared by starting from 4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]aniline (100 mg, 0.27 mmol)-4-fluoro phenylisocyanate (50 mg, 0.36 mmol) and DMAP (5 mg) was stirred at room temperature for a period of 24 hours. At the end, reaction mixture was concentrated and purified by Gilson HPLC, using ACN/water and TFA. White solid; mp: 248; Yield 86 mg (86%); (M+H) 506.4

reactant | 4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]aniline | 0.27 mmol, 100 mg | N1(CCOCC1)C1=NC(=NC(=N1)N1CC2CCC(C1)O2)C2=CC=C(N)C=C2 | C19H24N6O2
reactant | 4-fluoro phenylisocyanate | 0.36 mmol, 50 mg | FC1=CC=C(C=C1)N=C=O | C7H4FNO
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-(4-fluorophenyl)-3-{4-[4-morpholin-4-yl-6-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-1,3,5-triazin-2-yl]phenyl}urea | FC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)N1CC2CCC(C1)O2 | C26H28FN7O3
